US07414134B2
Step (iv): Synthesis of (R)-methyl 4-azido-3,4-dihydro-2H-chromene-7-carboxylate (6)
To a 3 L three-neck round-bottomed flask equipped with argon inlet/outlet, thermometer, and magnetic stirring was added (S)-methyl 4-hydroxychroman-7-carboxylate (71 g, 340 mmol) in 800 mL of toluene. The reaction vessel was cooled with a ice/salt bath, and treated with a solution of diphenylphosphoryl azide (88 mL, 407 mmol, Aldrich) in 200 mL toluene (internal temp.=−4° C.). After 10 min, a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (61 mL, 407 mmol, Aldrich) in toluene (350 mL) was added over 30 min (the internal temperature did not exceed 1 ° C.). The reaction mixture was warmed to room temp and stirred for 40 h. The reaction mixture was diluted with 800 mL EtOAc and washed with 1M H3PO4, water, 5% NaHCO3, and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (10:1 hexane-EtOAc) to provide the title compound. MS (+ion ESI) m/z=234 (MH+).

reactant | (S)-methyl 4-hydroxychroman-7-carboxylate | 340 mmol, 71 g | O[C@H]1CCOC2=CC(=CC=C12)C(=O)OC | C11H12O4
reactant | diphenylphosphoryl azide | 407 mmol, 88 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 407 mmol, 61 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 800 mL | CCOC(=O)C | C4H8O2
product | (R)-methyl 4-azido-3,4-dihydro-2H-chromene-7-carboxylate | N(=[N+]=[N-])[C@@H]1CCOC2=CC(=CC=C12)C(=O)OC | C11H11N3O3
